US07807673B2
Step A: 2,2,2-Trifluoro-N-[(3-nitrophenyl)methyl]acetamide
To a suspension of 3-nitrobenzylamine hydrochloride (10.2 g, 54 mmol) in DCM was added TEA (37.6 mL, 270 mmol). After 5 min., the solution became clear, and TFAA (11.4 mL, 81 mmol) was added dropwise over 30 min. and the reaction was stirred at rt. After 16 h, the crude reaction mixture was washed with 1 N HCl, dried over Na2SO4, adsorbed onto silica gel and purified by column chromatography to generate the title compound in 92% yield. 1H NMR (400 MHz, CDCl3) δ 8.15-8.19 (m, 2H), 7.65 (d, J=7.7 Hz, 1H), 7.56 (t, J=7.9 Hz, 1H), 6.7 (bs, 1H), 4.64 (s, 2H).

reactant | 3-nitrobenzylamine hydrochloride | 54 mmol, 10.2 g | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
reactant | TFAA | 81 mmol, 11.4 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-N-[(3-nitrophenyl)methyl]acetamide | 92% yield | FC(C(=O)NCC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C9H7F3N2O3
